US05360811
6-(1-Hexadecynyl)-2-pyridinecarboxaldehyde
A solution of 6-bromo-2-pyridinecarboxaldehyde (12.3 g), 1-hexadecyne (16.1 g), triethylamine (20.0 g), bis(triphenylphosphine)palladium(II)chloride (0.92 g), and copper(I)iodide (0.13 g) in dry tetrahydrofuran (55 ml) was heated at 50° C. for 29 hrs, under nitrogen. The reaction mixture was cooled to room temperature, filtered, and the filter cake was washed with ethyl acetate. The filtrate was evaporated and the residue was taken up in ethyl acetate (100 ml). The mixture was washed with 1:1-water:saturated sodium chloride solution, dried over anhydrous magnesium sulfate, filtered, and the filtrate was evaporated. The residue was flash chromatographed on silica gel, eluting with 1% ethyl acetate:hexanes. The appropriate fractions were collected and evaporated. The residue was dissolved in ethyl acetate and the solution was washed with half-saturated sodium chloride solution, dried over anhydrous magnesium sulfate, filtered, and the filtrate was evaporated to give 11.5 g (53.5%) of product, mp 38.5°-40° C.

reactant | 6-bromo-2-pyridinecarboxaldehyde | 12.3 g | BrC1=CC=CC(=N1)C=O | C6H4BrNO
reactant | 1-hexadecyne | 16.1 g | C#CCCCCCCCCCCCCCC | C16H30
reactant | triethylamine | 20.0 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 55 ml | O1CCCC1 | C4H8O
catalyst | bis(triphenylphosphine)palladium(II)chloride | 0.92 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper(I)iodide | 0.13 g | [Cu]I
product | 6-(1-Hexadecynyl)-2-pyridinecarboxaldehyde | 11.5 g, 53.5% | C(#CCCCCCCCCCCCCCC)C1=CC=CC(=N1)C=O | C22H33NO
